US05300506
Sodium (2.89 g. 125.8 mmol) was dissolved in ethanol (110 mL) and 5-bromopyrimidine (10.0 g, 62.9 mmol) added. The reaction was heated at 120° in an autoclave for 17 h and then allowed to stand at 23° for 60 h. The ethanol was removed under reduced pressure and water (5 mL) added to the concentrate. The aqueous phase was extracted with CH2Cl2 (4×100 mL). The combined organic extracts were washed with saturated NaCI solution, dried with anhydrous K2CO3, filtered, and concentrated under reduced pressure. Silica gel chromatography (Hexane/EtOAc; 70:30) of the concentrate yielded 5-ethoxypyrimidine (2.00 g, 25.6%).

reactant | Sodium | 125.8 mmol, 2.89 g | [Na] | Na
reactant | 5-bromopyrimidine | 62.9 mmol, 10.0 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | ethanol | 110 mL | C(C)O | C2H6O
product | 5-ethoxypyrimidine | 2.00 g, 25.6% | C(C)OC=1C=NC=NC1 | C6H8N2O
